US08957203B2
Step 1: Preparation of N,N-diethyl-4-methoxy-2-methylbenzamide
4-methoxy-2-methylbenzoic acid (3.0 g, 18.05 mmol) was taken in thionyl chloride (20 ml) and refluxed for 1 h at 80° C. The reaction mixture was evaporated under reduced pressure. Under nitrogen the crude was quenched with diethyl amine (1.870 ml, 18.05 mmol) slowly under cooling conditions. The reaction mixture was dissolved in water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography (20% ethyl acetate in pet ether) to get desired compound (2.3 g, 54.7%) as oil. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.06-7.04 (d, J=8 Hz, 1H), 6.79 (s, 1H), 6.78-6.76 (d, J=8 Hz, 1H), 3.75 (s, 3H), 3.43 (br, s, 2H), 3.06-3.05 (m, 2H), 2.16 (s, 3H), 1.14 (d, J=8 Hz, 3H), 0.95 (d, J=8 Hz, 3H).

reactant | 4-methoxy-2-methylbenzoic acid | 18.05 mmol, 3.0 g | COC1=CC(=C(C(=O)O)C=C1)C | C9H10O3
reactant | diethyl amine | 18.05 mmol, 1.870 ml | C(C)NCC | C4H11N
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | N,N-diethyl-4-methoxy-2-methylbenzamide | 2.3 g, 54.7% | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
